US20010020112A1
To a stirred solution of 2-(4-methylphenyl)-4-oxocyclohex-2-enecarboxylate (1.24 g, 5.1 mmol) in toluene (10 ml) was added oxalyl chloride (2.58 g, 20.4 mmol). After stirring for 2 hr. at 70-75° C., AcOEt was added to the reaction mixture and washed with water, sat.NaHCO3 and brine, dried over MgSO4. Concentration afford 1.24 g of ethyl 4-chloro-2-phenylcyclohexa-2,4-dienecarboxylate and ethyl 4-chloro-2-phenylcyclohexa-1,3-dienecarboxylate (y=93.0%) as a pale yellow oil. This product was used at next step without purification. 1H-NMR (ppm, 300 MHz, CDCl3) δ 7.25-7.45(8H), 7.13-7.16(2H), 6.35(1H, s), 6.19(1H, s), 5.87(1H, brs), 4.09(2H, q, J=7.3 Hz), 3.93(2H, q, J=7.3 Hz), 3.64(1H, dd, J=3.8 and 8.6 Hz), 2.90-3.05(1H, m), 2.60-2.85(5H), 1.34(3H, t, J=7.3 Hz), 0.89(3H, t, J=7.3 Hz)

reactant | 2-(4-methylphenyl)-4-oxocyclohex-2-enecarboxylate | 5.1 mmol, 1.24 g | CC1=CC=C(C=C1)C=1C(CCC(C1)=O)C(=O)[O-]
reactant | oxalyl chloride | 20.4 mmol, 2.58 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-chloro-2-phenylcyclohexa-2,4-dienecarboxylate | 1.24 g | ClC=1C=C(C(CC1)C(=O)OCC)C1=CC=CC=C1 | C15H15ClO2
